US07816522B2
(2d) 2-(4-cyanophenylimino)-2-(2-fluoro-3,5-dimethoxyphenyl)thioacetimidic acid methyl ester
After adding 4.95 g of manganese dioxide to a solution of 2.05 g of 2-(4-cyanophenylamino)-2-(2-fluoro-3,5-dimethoxyphenyl)thioacetimidic acid methyl ester in 100 ml of ethyl acetate, the mixture was stirred at room temperature for 3 hours. The reaction mixture was filtered through celite, and the celite was washed with 500 ml of ethyl acetate. The organic layers were combined and concentrated under reduced pressure. The title compound (2.01 g) was obtained as a light yellow solid.

reactant | 2-(4-cyanophenylamino)-2-(2-fluoro-3,5-dimethoxyphenyl)thioacetimidic acid methyl ester | 2.05 g | CSC(C(C1=C(C(=CC(=C1)OC)OC)F)NC1=CC=C(C=C1)C#N)=N | C18H18FN3O2S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 4.95 g | [O-2].[O-2].[Mn+4]
product | 2-(4-cyanophenylimino)-2-(2-fluoro-3,5-dimethoxyphenyl)thioacetimidic acid methyl ester | 2.01 g | CSC(C(C1=C(C(=CC(=C1)OC)OC)F)=NC1=CC=C(C=C1)C#N)=N | C18H16FN3O2S
